US07560569B2
(2S,4S)-1-[[N-Benzyloxycarbonyl-N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (40.0 mg) and 1-hydroxybenzotriazole (20.1 mg) were dissolved in N,N-dimethylformamide (0.8 mL). While the solution was chilled in an ice bath, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (41.9 mg) was added and the mixture was stirred at room temperature for 2 hours. Subsequently, (1S)-1-phenylethylamine (14.5 μL) was added and the mixture was further stirred at room temperature for 16.5 hours. The reaction mixture was concentrated under reduced pressure and the resulting residue was dissolved in dichloromethane (2 mL). The dichloromethane solution washed sequentially with 0.1 mol/L hydrochloric acid, saturated aqueous sodium bicarbonate solution and saturated brine. The solution then was dried over anhydrous sodium sulfate and was concentrated under reduced pressure. The resulting residue was purified by a silica gel column (eluant:ethyl acetate) to give ((2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-[N-[(1S)-1-phenyl-1-ethyl]amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (51.5 mg).

reactant | (2S,4S)-1-[[N-Benzyloxycarbonyl-N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 40.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)O)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C24H28FN3O5
reactant | 1-hydroxybenzotriazole | 20.1 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 41.9 mg | Cl.CN(CCCN=C=NCC)C
reactant | (1S)-1-phenylethylamine | 14.5 μL | C1(=CC=CC=C1)[C@H](C)N | C8H11N
solvent | N,N-dimethylformamide | 0.8 mL | CN(C=O)C | C3H7NO
product | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-[N-[(1S)-1-phenyl-1-ethyl]amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 51.5 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)N[C@@H](C)C2=CC=CC=C2)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C32H37FN4O4
